US07932282B2
A stirred solution of 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate (1.75 g, 8.74 mmol) (prepared as described in step (i) of Example 49 from 5-(1,1-dimethylethyl)1-(phenylmethyl)3-methyl-2-oxo-1,5-imidazolidinedicarboxylate, itself prepared as described in step (ii) of Example 13, starting originally from (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid) in N,N-dimethylformamide (22 ml) was cooled to −10° C. under argon, and then the methyl iodide (2.186 ml, 35.0 mmol) was added. Sodium hydride (60% dispersion in oil) (0.329 g, 8.22 mmol) was then added portion wise. The reaction mixture was allowed to warm to RT while stirring under argon overnight. The solvent was evaporated in vacuo and then the residue partitioned between ethyl acetate (40 ml) and brine (30 ml). The aqueous layer was re-extracted with ethyl acetate (×2) and then the combined organic extracts were washed with water (×2, 50 ml), brine (50 ml) and dried over magnesium sulphate. The solvent was evaporated in vacuo. The crude product was purified by flash-silica gel chromatography, eluting with 25-100% ethyl acetate/iso-hexane. The fractions containing product were combined and solvent evaporated in vacuo to give a yellow oil, 1,1-dimethylethyl 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylate (1.48 g, 79% yield). (ii) A solution of 1,1-dimethylethyl 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylate (1.92 g, 8.96 mmol) in dichloromethane (12 ml)/trifluoroacetic acid (6.00 ml) was stirred at room temperature for 24 hours. The solution was evaporated and the residue was co-evaporated with toluene (×3) and then dichloromethane (×2). The product was then dried to give crude 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylic acid (1.65 g) which was dissolved in dichloromethane (90 ml) to give a ˜0.1M solution in dichloromethane which was used in subsequent reactions. LC/MS [M+H]+=159.

reactant | 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate | 8.74 mmol, 1.75 g | CN1C(NC(C1)C(=O)OC(C)(C)C)=O | C9H16N2O3
reactant | (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid | O=C1NC[C@H](N1C(=O)OCC1=CC=CC=C1)C(=O)O | C12H12N2O5
reactant | methyl iodide | 35.0 mmol, 2.186 ml | CI | CH3I
reactant | Sodium hydride | 8.22 mmol, 0.329 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | 1,1-dimethylethyl 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylate | 1.48 g, 79% yield | CN1C(N(C(C1)C(=O)OC(C)(C)C)C)=O | C10H18N2O3
